US07119207B2
To a solution of 0.1 g (0.4 mmol) 7-[1,3]dioxolan-2-yl-6-methoxy-3,4-dihydro-1H-[1,8]naphthyridin-2-one in 1 ml of DMF cooled to 5° C. was added 0.5 ml (0.5 mmol) of potassium t-butoxide (1M solution in THF). The reaction mixture was stirred fo 30 minutes. To this mixture was added 0.06 ml (1 mmol) of methyl iodide and the reaction stirred at ambient temperature for 2 hours. The reaction mixture was diluted with 5 ml of water and extracted with ethyl acetate. The ethyl acetate extract was dried (Na2SO4) and evaporated to yield intermediate 7-[1,3]dioxolan-2-yl-6-methoxy-1-methyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one as a dark oil. Mass spectrum: m/e=205.1 (p+1). This material was dissolved in 5 ml of acetone containing 0.1 g of para-toluenesulfonic acid and refluxed for 2 hours. The reaction mixture was evaporated and the residue triturated with saturated NaHCO3. This mixture was extracted with ethyl acetate. The ethyl acetate extract was dried (Na2SO4) and evaporated and the residue chromatographed on silica using 3:1 chloroform/ethyl acetate as the elutant. Appropriate fractions were combined to yield 12 mg of 3-methoxy-8-methyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridine-2-carbaldehyde as an oil. Mass spectrum: m/e=221.1 (p+1). 1H NMR (CDCl3) δ 10.1 (s, 1H), 7.25 (s, 1H), 3.95 (s, 3H), 3.50 (s, 3H), 3.0 (m, 2H), 2.90 (m, 2H).

reactant | 7-[1,3]dioxolan-2-yl-6-methoxy-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.4 mmol, 0.1 g | O1C(OCC1)C1=C(C=C2CCC(NC2=N1)=O)OC | C12H14N2O4
reactant | potassium t-butoxide | 0.5 mmol, 1M, 0.5 ml | CC(C)([O-])C.[K+]
reactant | methyl iodide | 1 mmol, 0.06 ml | CI | CH3I
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 5 ml | O | H2O
product | 7-[1,3]dioxolan-2-yl-6-methoxy-1-methyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one | O1C(OCC1)C1=C(C=C2CCC(N(C2=N1)C)=O)OC | C13H16N2O4
